US07915418B2
Production of Ethyl 3-dimethylamino-2-(2,4-difluoro-3-methoxybenzoyl)acrylate
To 10.0 g of 2,4-difluoro-3-methoxybenzoic acid was added 40 mL of tetrahydrofuran. To this solution was added 0.4 mL of N,N-dimethylformamide, and then 8 mL of thionyl chloride was added dropwise with stirring to this mixture at room temperature. After completion of the dropwise addition, Dimroth condenser was installed, and the mixture was heated under reflux for 2 hours. After allowing the reaction mixture to cool, the solvent was distilled away. The resulting acid chloride was dissolved in 40 mL of tetrahydrofuran, and 12 ml of triethylamine was added to this solution and the mixture was stirred. After 30 minutes, 8.37 g of ethyl N,N-dimethylaminoacrylate was added dropwise, and after completing the dropwise addition, the mixture was heated under reflux for 2 hours. After completion of the reaction, the precipitated solid was removed by suction filtration, and the filtrate was concentrated under reduced pressure to obtain 23.3 g of the desired title compound as a dark brown oily compound.

reactant | 2,4-difluoro-3-methoxybenzoic acid | 10.0 g | FC1=C(C(=O)O)C=CC(=C1OC)F | C8H6F2O3
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-dimethylamino-2-(2,4-difluoro-3-methoxybenzoyl)acrylate | 23.3 g | CN(C=C(C(=O)OCC)C(C1=C(C(=C(C=C1)F)OC)F)=O)C | C15H17F2NO4
